US04000275
3-Trifluoromethyl-8,9-dimethylbenzimidazo[2,1-b]quinazolin-12(6H)one is prepared with 2-chloro-5,6-dimethylbenzimidazole and 4-trifluoromethylanthranilic acid.

reactant | 2-chloro-5,6-dimethylbenzimidazole | ClC=1NC2=C(N1)C=C(C(=C2)C)C | C9H9ClN2
reactant | 4-trifluoromethylanthranilic acid | FC(C=1C=C(C(C(=O)O)=CC1)N)(F)F | C8H6F3NO2
product | 3-Trifluoromethyl-8,9-dimethylbenzimidazo[2,1-b]quinazolin-12(6H)one | FC(C1=CC=C2C(N3C(=NC2=C1)NC1=C3C=C(C(=C1)C)C)=O)(F)F | C17H12F3N3O
